US09403805B2
(2S,4S)-1-(3,3-Dimethyl-butyl)-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester was prepared from (2S,4S)-4-amino-1-(3,3-dimethyl-butyl)-pyrrolidine-2-carboxylic acid methyl ester and 1-hydroxy-naphthalene-2-carboxylic acid in an analogous manner to example 1. MS calcd. for C23H31N2O4 [(M+H)+] 399.0, obsd. 399.0.

reactant | (2S,4S)-4-amino-1-(3,3-dimethyl-butyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N)CCC(C)(C)C | C12H24N2O2
reactant | 1-hydroxy-naphthalene-2-carboxylic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
product | (2S,4S)-1-(3,3-Dimethyl-butyl)-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)CCC(C)(C)C | C23H30N2O4
